* Portfolio filename: model_material_rate_state.cir
* Original working file: 0513(3).cir
* 0505 memdiode bipolar IV loop simulation
.param S0   = 0.1
.param H0   = 0
.param CH0  = 1e-8
.param R_on = 1e6
.param R_off= 1e8


*V1 p 0 SIN(0 6 100)
V1 p 0 PWL(
+ 0      0
+ 5m   6
+ 10m     0
+ 15m  -6
+ 20m     0
)


X1 p 0 x memdiode_bipolar S0={S0} H0={H0} CH0={CH0} R_on={R_on} R_off={R_off}

.options method=gear reltol=1e-4 abstol=1e-15 gmin=1e-12

.control
  set numdgt 12
  set wr_singlescale
  set wr_vecnames
  tran 1e-6 20m 0 uic maxstep=2e-7
  wrdata iv_loop.dat time v(p) i(V1) v(x)
.endc

.subckt memdiode_bipolar p n x S0=0.7 H0=0.5 CH0=1e-8 R_on=1e5 R_off=1e8

  * ============================================================
  * Basic utility functions
  * ============================================================
  .func linmod(x, m, b)    { m*x + b }
  .func logmod(x, a, b, c) { a*log10(x) + b*x + c }
  .func clamp0(v)          { min(max(v,0),1) }
  .func xeff(v)            { min(max(v,1e-9),1-1e-9) }
  .func step(v)            { 0.5*(1 + tanh(10*v)) }
  .func safe_exp(v)        { exp(min(max(v,-20),20)) }

  .param I_SCALE     = 1e-6
  .param ALPHA_SCALE = 0.25

  .func alpha_pos_x(xh) { ALPHA_SCALE*(alpha_pos_l + clamp0(xh)*(alpha_pos_m-alpha_pos_l)) }
  .func alpha_neg_x(xh) { ALPHA_SCALE*(alpha_neg_l + clamp0(xh)*(alpha_neg_m-alpha_neg_l)) }

  .func log_i0_pos_x(xh) { log10(imin_pos) + clamp0(xh)*(log10(imax_pos)-log10(imin_pos)) }
  .func log_i0_neg_x(xh) { log10(imin_neg) + clamp0(xh)*(log10(imax_neg)-log10(imin_neg)) }

  .func i0_pos_x(xh) { I_SCALE*pow(10, log_i0_pos_x(xh)) }
  .func i0_neg_x(xh) { I_SCALE*pow(10, log_i0_neg_x(xh)) }

  * ============================================================
  * State-dependent resistance
  * x = 0 : HRS / OFF
  * x = 1 : LRS / ON
  * ============================================================
  .func RSc(v) { pow(10, log10(R_off) - clamp0(v)*(log10(R_off)-log10(R_on))) }

   * ============================================================
  * I-V parameters
  * These describe nonlinear electronic conduction.
  * x changes the effective current scale and barrier slope.
  * ============================================================
  .param beta_pos       = 0.5
  .param beta_neg       = 0.5

  * -------- Stronger S0 dependence for current scale --------
  .param imax_pos_sl    = 5
  .param imax_pos_in    = -7.0
  .param imax_pos       = pow(10, linmod(S0, imax_pos_sl, imax_pos_in))

  .param imin_pos_sl    = 5
  .param imin_pos_in    = -9.0
  .param imin_pos       = pow(10, linmod(S0, imin_pos_sl, imin_pos_in))

  .param imax_neg       = imax_pos
  .param imin_neg       = imin_pos

  * -------- Stronger S0 dependence for nonlinear slope alpha --------
  .param amax_pos_sl    = 5.0
  .param amax_pos_in    = 0.3
  .param alpha_pos_m    = linmod(S0, amax_pos_sl, amax_pos_in)

  .param amin_pos_sl    = 4.5
  .param amin_pos_in    = 0.1
  .param alpha_pos_l    = linmod(S0, amin_pos_sl, amin_pos_in)

  .param alpha_neg_m    = alpha_pos_m
  .param alpha_neg_l    = alpha_pos_l

  * ============================================================
  * Material-related SET / RESET threshold parameters
  * Positive voltage : SET, x increases
  * Negative voltage : RESET, x decreases
  * ============================================================

  * Low S0: high Vset, difficult to SET
  * High S0: low Vset, easy to SET
  .param vset_pos_sl    = -5.0
  .param vset_pos_in    = 6.0
  .param vset_pos       = linmod(S0, vset_pos_sl, vset_pos_in)

  .param vreset_pos_sl  = -4.0
  .param vreset_pos_in  = 5.5
  .param vreset_pos     = linmod(S0, vreset_pos_sl, vreset_pos_in)

  * ============================================================
  * Material-inspired state evolution parameters
  *
  * kset0, kreset0:
  *   base rate of filament growth / rupture, unit = 1/s
  *
  * gamma_set, gamma_reset:
  *   field-enhanced activation factor.
  *   Larger value means stronger voltage acceleration.
  *
  * kth:
  *   smoothness of activation threshold.
  *   Larger value gives sharper threshold.
  *
  * p_set, p_reset:
  *   saturation exponents.
  *   SET slows down as x approaches 1.
  *   RESET slows down as x approaches 0.
  *
  * kleak:
  *   slow retention loss or spontaneous relaxation.
  *   For nonvolatile behavior, keep kleak = 0.
  * ============================================================
  .param kset0        = 1200
  .param kreset0      = 190
  .param gamma_set    = 1.6
  .param gamma_reset  = 0.52
  .param kth          = 10
  .param p_set        = 0.85
  *.param p_set        = 1.35
  .param p_reset      = 1.1

  .param kleak        = 0
  .param xret         = 0.5

  * Smooth activation windows
  .func gset(v)   { 0.5*(1 + tanh(kth*(v - vset_pos))) }
  .func greset(v) { 0.5*(1 + tanh(kth*((-v) - vreset_pos))) }

  * SET rate:
  * Positive voltage lowers the activation barrier,
  * oxygen-vacancy / conductive-filament formation becomes faster.
  .func rate_set(v,xh) {
  + kset0
  + * gset(v)
  + * safe_exp(gamma_set*(v - vset_pos))
  + * pow(max(1 - xh, 1e-9), p_set)
  + }

  * RESET rate:
  * Negative voltage activates filament rupture / vacancy redistribution.
  .func rate_reset(v,xh) {
  + kreset0
  + * greset(v)
  + * safe_exp(gamma_reset*((-v) - vreset_pos))
  + * pow(max(xh, 1e-9), p_reset)
  + }

  * ============================================================
  * State capacitor
  *
  * V(x) is the normalized material state:
  *   V(x) ≈ 0 : OFF / ruptured filament / weak vacancy channel
  *   V(x) ≈ 1 : ON  / formed filament  / strong vacancy channel
  *
  * C*dV(x)/dt = injected state current
  * Therefore:
  *
  * dx/dt = rate_set(V)*(1-x) - rate_reset(V)*x - kleak*(x-xret)
  * ============================================================
  Ch_internal x 0 c={CH0} ic={H0}

  Bstate 0 x I={
  + CH0*
  + (
  +   rate_set(V(p,n), xeff(V(x)))
  + - rate_reset(V(p,n), xeff(V(x)))
  + - kleak*(V(x)-xret)
  + )
  + }

  * ============================================================
  * Soft boundary protection for state variable
  * Prevent x from going below 0 or above 1.
  * ============================================================
  Bx_hi x 0 I={1e-4*step(V(x)-1)*(V(x)-1)}
  Bx_lo 0 x I={1e-4*step(-V(x))*(-V(x))}

  * ============================================================
  * Conductive paths
  * 1. Ohmic-like state-dependent resistance
  * 2. Nonlinear memdiode current
  * ============================================================
  Rp p n r={RSc(V(x))}

  Gcur p n value={
+ step(V(p,n))*
+ (
+   i0_pos_x(V(x))
+   *
+   (
+     safe_exp(beta_pos*alpha_pos_x(V(x))*V(p,n))
+     -
+     safe_exp(-(1-beta_pos)*alpha_pos_x(V(x))*V(p,n))
+   )
+ )
+ +
+ step(-V(p,n))*
+ (
+   -
+   i0_neg_x(V(x))
+   *
+   (
+     safe_exp(beta_neg*alpha_neg_x(V(x))*(-V(p,n)))
+     -
+     safe_exp(-(1-beta_neg)*alpha_neg_x(V(x))*(-V(p,n)))
+   )
+ )
+ }

.ends memdiode_bipolar
